US05202312
10% Hydrogenchloride dioxane solution (30 ml) is added to N-tert-butoxycarbonyl-L-phenylalanyl-L-phenylalanyl-L-histidine methyl ester (2.25 g) and the mixture is stirred at room temperature for two hours. The reaction mixture is concentrated under reduced pressure to remove solvent and ether is added to the residue to give L phenylalanyl-L phenylalanyl-L-histidine methyl ester dihydrochloride (2.15 g) as white powder. The product (2.15 g) thus obtained is dissolved in dimethylformamide (15 ml), and pivaloyl chloride (0.48 g) is added thereto. Triethylamine (2.24 ml) is added dropwise to the mixture under ice-cooling and the mixture is stirred at room temperature overnight. Ethyl acetate is added to the reaction mixture and insoluble materials are filtered off. The filtrate is washed with an aqueous sodium bicarbonate solution and water, dried, and then concentrated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chroroform:methanol=12:1) and triturated with ether to give N-pivaloyl-L-phenylalanyl-L-phenylalanyl-L-histidine methyl ester (0.98 g). Yield ;44.8%

reactant | N-tert-butoxycarbonyl-L-phenylalanyl-L-phenylalanyl-L-histidine methyl ester | 2.25 g | COC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C30H37N5O6
reactant | Hydrogenchloride dioxane | 30 ml | O1CCOCC1.Cl
product | phenylalanyl-L phenylalanyl-L-histidine methyl ester dihydrochloride | 2.15 g | Cl.Cl.COC([C@@H](NC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | InChI=1S/C25H29N5O4.2ClH/c1-34-25(33)22(14-19-15-27-16-28-19)30-24(32)21(13-18-10-6-3-7-11-18)29-23(31)20(26)12-17-8-4-2-5-9-17;;/h2-11,15-16,20-22H,12-14,26H2,1H3,(H,27,28)(H,29,31)(H,30,32);2*1H/t20-,21-,22-;;/m0../s1
